US08492549B2
2-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-1,2,3,4-tetrahydro-isoquinoline-8-carboxylic acid methyl ester
To a mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (0.2 g, 0.88 mmol) and 1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid methyl ester (0.14 g, 0.88 mmol) in DMF (10 ml) was added K2CO3 (0.61 g, 4.41 mmol). The reaction mixture was heated under microwaves at 140° C. for 10 min. Water was then added and the mixture extracted with DCM (3×5 ml). The combined organic phases were dried (Na2SO4), filtered and the filtrate was evaporated to give the title compound, which was purified by column chromatography (DCM/MeOH, 95:5).

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 0.88 mmol, 0.2 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | 1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid methyl ester | 0.88 mmol, 0.14 g | COC(=O)C=1C=CC=C2CCNCC12 | C11H13NO2
reactant | K2CO3 | 4.41 mmol, 0.61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-1,2,3,4-tetrahydro-isoquinoline-8-carboxylic acid methyl ester | COC(=O)C=1C=CC=C2CCN(CC12)CC1COC2=C(O1)C=CC=C2 | C20H21NO4
